US05041510
(2) 4-Triflyl-4'-(N-4-hydroxybutyl-N-methylamino)azobenzene
To a stirred solution of 38.2 g (0.1 mole) of 4-triflylbenzenediazonium hexafluorophosphate in a 50:50 mixture of glacial acetic acid and water at 0° C. is added 17.9 g (0.1 mole) of N-4-hydroxybutyl-N-methylaniline dropwise. The reaction mixture is stirred at 0° C. for 15 minutes, and 12.3 g (0.15 mole) of sodium acetate is added with stirring. The reaction is stirred at 0° C. for 30 minutes and then warmed to room temperature and stirred for 16 hours. Compound C is collected by filtration and purified by recrystallization from ethanol.

reactant | 4-triflylbenzenediazonium hexafluorophosphate | 0.1 mole, 38.2 g | F[P-](F)(F)(F)(F)F.S(=O)(=O)(C(F)(F)F)C1=CC=C(C=C1)[N+]#N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | N-4-hydroxybutyl-N-methylaniline | 0.1 mole, 17.9 g | OCCCCN(C1=CC=CC=C1)C | C11H17NO
reactant | sodium acetate | 0.15 mole, 12.3 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4-Triflyl-4'-(N-4-hydroxybutyl-N-methylamino)azobenzene | S(=O)(=O)(C(F)(F)F)C1=CC=C(C=C1)N=NC1=CC=C(C=C1)N(C)CCCCO | C18H20F3N3O3S
